US09216173B2
To a solution of benzyl tert-butyl [3-(acetylamino)propane-1,2-diyl]biscarbamate (1.3 g, 3.6 mmol) in methanol (40 mL) was added 10% palladium on carbon (0.13 g, 10% w/w). The reaction mixture was stirred under a hydrogen atmosphere at room temperature. After 14 hours, the reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to give tert-butyl [1-(acetylamino)-3-aminopropan-2-yl]carbamate. MS ESI calc'd. for C10H22N3O3 [M+H]+ 232. found 232. 1H NMR (400 MHz, CD3OD) δ 3.78-3.73 (m, 1H), 3.29-3.24 (m, 2H), 2.89-2.70 (m, 2H), 1.96 (s, 3H), 1.45 (s, 9H).

reactant | benzyl tert-butyl [3-(acetylamino)propane-1,2-diyl]biscarbamate | 3.6 mmol, 1.3 g | C(C)(=O)NCC(CNC(OCC1=CC=CC=C1)=O)NC(OC(C)(C)C)=O | C18H27N3O5
solvent | methanol | 40 mL | CO | CH4O
catalyst | palladium on carbon | 0.13 g | [Pd] | Pd
product | tert-butyl [1-(acetylamino)-3-aminopropan-2-yl]carbamate | C(C)(=O)NCC(CN)NC(OC(C)(C)C)=O | C10H21N3O3
